Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
CC:  ___ of breath
REASON FOR MICU: Intubated
 
Major Surgical or Invasive Procedure:
Intubated prior to admission
Bronchoscopy ___
 
History of Present Illness:
___ with hx of schizophrenia and multiple medical issues 
relating to STEMI (BMS to circumflex) c/b cardiac arrest, CHF, 
aspiration PNA, ?COPD, and blood loss anemia who presented to 
___ from rehab after an acute episode of respiratory 
distress and was subsequently intubated. Per EMS report he had 
been having hemoptysis and SOB that acutely worsened tonight. He 
was hypoxic to ___. Given medical complexity, he was transferred 
to ___.  

In review of his records, he was initially admitted to ___ 
___ in ___ with STEMI but was 
transferred to ___ for placement of BMS to 
circumflex. His course at that time was complicated by 
aspiration PNA, pulmonary edema, and multiorgan shock requiring 
ICU. He was then discharged to rehab but almost immediately had 
to return to ___ ICU in late ___ for thrombosed 
stent. That course was complicated by diastolic HF, COPD, 
aspiration PNA, and blood transfusions ___ suspected GI bleed. 

Xray was concerning for ARDS. He received 2L of fluid and was 
started on Vancomycin and Zozyn. Sedated on versed and fentanyl 
drips. 

In the ED he received aspirin PR. Bedside echo limited. A 
limited bedside TTE was performed without clear cardiac 
etiology. 

In ED initial VS:  97.8 ___ 35 100% vent  
Labs significant for:  leukocytosis, initially elevated lactate 
to 4, now resolved. Hgb 7
Imaging notable for:  CXR with diffuse ___ batwing interstital 
infiltrates, ETT in appropriate location

TTE: ___ MR, Circumflex territory hypokinesis
VS prior to transfer:  36.9 ___ 22 99% Intubation 
 
On arrival to the MICU,  patient is alert, oriented, and 
following commands. Denies chest pain or any other pain. Not 
currently uncomfortable. 

REVIEW OF SYSTEMS:  unable to obtain in detail. Notable as above

 
Past Medical History:
CAD s/p STEMI (BMS to circumflex) w in stent thrombosis - 
___
Cardiac Arrest ___
PAD
HTN
Afib
Schizophrenia- diagnosed at ___ w/ episodic agitation/paranoia. 
Usually on monthly fluphenazine. 
?Chronic GI bleed: ___ deferred until stable 
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
Admission:
==========
VITALS:  98.7 115 127/96 16 97% PS
GENERAL: intubated but appears comfortable. following commands
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: coarse breath sounds but no wheeze
CV: Regular rate and rhythm, normal S1 S2, +SEM at apex
ABD: soft, non-tender, distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no apparent rashes
NEURO:  following commands, PERRL

Discharge:
==========
VITALS: Temp: 97.6 (Tm 98.4), BP: 101/68 (101-129/55-72), HR: 65
(65-89), RR: 18 (___), O2 sat: 100% (92-100), O2 delivery: Ra  

General: AOx3, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, occasional dry cough
CV: RRR, S1 and S2 audible, no murmurs appreciated
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, trace pedal edema, varicose 
veins, clubbing
Neuro: CN II-XII intact, purposefully moves all extremities, no
pronator drift
Psych: Flat affect, interacting and follows commands, speaks 
short sentences, apparent foot tapping versus akathesia

 
Pertinent Results:
Admission and notable labs:

___ 11:50PM BLOOD WBC-21.2* RBC-2.35* Hgb-7.0* Hct-22.9* 
MCV-97 MCH-29.8 MCHC-30.6* RDW-18.6* RDWSD-64.0* Plt ___
___ 11:50PM BLOOD Neuts-92* Bands-0 Lymphs-4* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-19.50* 
AbsLymp-0.85* AbsMono-0.85* AbsEos-0.00* AbsBaso-0.00*
___ 11:50PM BLOOD ___ PTT-26.5 ___
___ 11:50PM BLOOD Glucose-158* UreaN-11 Creat-0.8 Na-134* 
K-6.3* Cl-100 HCO3-21* AnGap-13
___ 06:32AM BLOOD Glucose-99 UreaN-13 Creat-0.7 Na-137 
K-3.9 Cl-101 HCO3-23 AnGap-13
___ 11:50PM BLOOD ALT-23 AST-66* CK(CPK)-50 AlkPhos-69 
TotBili-1.1
___ 11:50PM BLOOD CK-MB-4
___ 11:50PM BLOOD cTropnT-0.18*
___ 03:00AM BLOOD proBNP-4195*
___ 03:00AM BLOOD cTropnT-0.18*
___ 06:32AM BLOOD CK-MB-5
___ 11:50PM BLOOD Albumin-2.9*
___ 06:32AM BLOOD Calcium-8.0* Phos-3.6 Mg-1.6
___ 02:43AM BLOOD pO2-54* pCO2-37 pH-7.40 calTCO2-24 Base 
XS-0
___ 11:55PM BLOOD Lactate-2.1* K-4.4
___ 03:10AM BLOOD Lactate-1.6
___ 11:50PM URINE Blood-MOD* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:50PM URINE RBC-12* WBC-14* Bacteri-FEW* Yeast-NONE 
Epi-1

PLEURAL FLUID
___ 03:45PM OTHER BODY FLUID Hct,Fl-<2  Polys-36* Lymphs-3* 
Monos-54* Other-7*
___ 03:45PM OTHER BODY FLUID Hct,Fl-LESS THAN  Polys-83* 
Lymphs-3* Monos-2* Atyps-1* Macro-11*
___ 03:45PM OTHER BODY FLUID Hct,Fl-LESS THAN  Polys-62* 
Lymphs-5* Monos-2* Macro-31*

MICROBIOLOGY:
___ 11:52PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
 
___ 6:00 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

IMAGING:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is at least 15 mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with near akinesis of the 
inferolateral and inferior walls. The remaining segments 
contract normally. Quantitative (biplane) LVEF = 40 %. The right 
ventricular cavity is mildly dilated with moderate global free 
wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate to severe pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 

 IMPRESSION: Suboptimal image quality. Right ventricular cavity 
dilation and free wall hypokinesis. Moderate to severe pulmonary 
artery systolic hypertension. Moderate tricuspid regurgitation. 
Symmetric left ventricular hypertrophy with regional systolic 
dysfunction most c/w CAD (PDA distribution). Moderate mitral 
regurgitation most likely due to papillary muscle dysfunction. 

 Compared with the prior study (images reviewed) of ___, 
moderate to severe pulmonary artery systolic hypertension is now 
identified (not quantified on prior study). Left and right 
ventricular volumes and contractility are similar.  

___ CT CHEST: 
IMPRESSION:   
1. Diffuse airspace opacities with surrounding ground-glass and 
interlobular septal (crazy paving pattern) in both lungs.  
Differential considerations include ARDS, diffuse alveolar 
hemorrhage or pulmonary edema.  Concurrent infection is also a 
consideration. 
2. Mediastinal lymphadenopathy may be reactive to the above 
process. 
3. Small bilateral pleural effusions with possible loculated 
component along the right major fissure. 
4. 9 mm right thyroid nodule which requires no further 
evaluation in the 
absence of thyroid cancer risk factors. 

CXR ___:
IMPRESSION:  Comparison to ___.  While the left 
parenchymal opacities are stable, the widespread right-sided 
opacities have minimally decreased in extent and severity.  
Otherwise the radiograph is unchanged.  Moderate cardiomegaly 
persists.  No larger pleural effusions.  Stable position of the 
endotracheal tube. 

DISCHARGE LABS:

___ 04:50AM BLOOD WBC-11.2* RBC-2.91* Hgb-8.4* Hct-26.8* 
MCV-92 MCH-28.9 MCHC-31.3* RDW-16.1* RDWSD-52.7* Plt ___
___ 04:50AM BLOOD Glucose-104* UreaN-16 Creat-0.7 Na-136 
K-3.6 Cl-95* HCO3-29 AnGap-12
___ 04:45AM BLOOD TotBili-1.4
___ 04:50AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.0
___ 04:45AM BLOOD Hapto-343*
___ 03:00AM BLOOD ANCA-NEGATIVE B
___ 03:00AM BLOOD ___
 
Brief Hospital Course:
PATIENT SUMMARY:
================

___ yo M with history of CAD including recent STEMI/cardiac 
arrest, PE, and schizophrenia presenting with hypoxemic 
respiratory failure in setting of cough and hemoptysis.

ACUTE ISSUES:
=============

# ACUTE HYPOXIC RESPIRATORY FAILURE
# Hemoptysis
Sent in from rehab with hypoxic respiratory failure. Intubated 
at ___ and transferred to ___ MICU. Extubated on 
___. Differential: DAH vs more likely pulmonary edema with 
volume overload/HF exacerbation. flu negative, MRSA negative, 
legionella negative. Patient underwent bronchoscopy on ___ 
which did not appear consistent with DAH based on cell 
counts/Hct and based on qualitative assessment during 
bronchoscopy. Most likely etiology thought to be acute systolic 
heart failure. TTE showed right ventricular cavity dilation and 
free wall hypokinesis. Moderate to severe pulmonary artery 
systolic hypertension. Moderate tricuspid regurgitation. 
Symmetric left ventricular hypertrophy with regional systolic 
dysfunction most c/w CAD (PDA distribution). Moderate mitral 
regurgitation most likely due to papillary muscle dysfunction. 
LVEF 40%. He did have anti-GBM, ___, and ANCA 
checked to rule out vasculitis as etiology for possible DAH. ___ 
and ANCA were unrevealing. He was diuresed with Lasix IV 40 mg 
and briefly on Lasix gtt in the ICU, transitioned to 60 mg PO QD 
upon discharge. He was placed on vancomycin and cefepime 
___. Imdur and hydralazine added this admission for 
better afterload reduction. Patient has had angioedema on 
___ so was started on these medications instead.

# CAD/NSTEMI II
# CHF
TTE with EF 40%, 2+ MR this admission: Patient presented with 
troponin leak to 0.18 with flat MB. Noted to have ST depressions 
V2-V5 that subsequently resolved. Suspect demand ischemia as 
opposed to acute plaque rupture. He was continued on his home 
___ and ___ 81 and atorvastatin 80 mg QHS. Over hospital 
course, his metop was restarted at 6.25mg Q6H. This was 
transitioned to metoprolol succinate at the time of discharge. 

He was seen by cardiology who recommended the following:

1.  Continue aspirin 81 mg daily and ___ 90 mg twice 
daily.  He will likely need to remain on this regimen 
indefinitely.
2.  Please continue metoprolol tartrate and titrate to a heart 
rate of approximately 60 bpm. Prior to discharge the metoprolol 
can be converted to succinate for ease of administration. 
3.  Please continue Lasix 60 mg daily.
4.  Continue Imdur 15 mg daily and hydralazine 5 mg twice daily. 
The hydralazine can be uptitrated as needed for afterload 
reduction.
5.  Please continue atorvastatin 80 mg daily.
6.  The patient should have close outpatient cardiology 
follow-up on discharge.

#Acute on Chronic Blood Loss Anemia
Patient with report of hemoptysis as well as previous GI bleed 
that was to be further explored as an outpatient. He was 
monitored with CBCs and received total of 2U pRBC this 
admission. Hgb stable at discharge at 8.4.

# Question of atrial fibrillation
No evidence of this while in ICU, per ICU team history of this 
is unclear. ___-2-VASc of 2 for HF and hypertension history, 
does not appear to be on any anticoagulation as outpatient. That 
being said, currently no indication for bridging and there is 
concern for acute blood loss anemia. 
- Need to clarify with outpatient cardiologist Dr. ___ 
- ___ per HFrEF as noted above

# Leukocytosis
Resolved ___. Likely stress reaction due to acute hypoxemic 
respiratory failure. No evidence of infection. WBC on discharge 
11.2.

# Schizophrenia:
Stable for ___ years on IM fluphenazine. Currently stable this 
admission and has completed PO overlap for dose missed in 
___. No need for changes to plan. Most recent IM dose 
(___).
 
CHRONIC ISSUES:
===============

# Peripheral artery disease:
Common femoral 80% stenosis per outside records. Continued on 
___, statin as per above.

# COPD
Diagnosed at ___ (per records). On Albuterol, Advair as 
outpt, but satting well on RA now, without productive cough. 
Will restart home medications upon discharge.

# Tobacco use, in remission
2 PPD smoker for years. Quit cold ___ after ___

TRANSITIONAL ISSUES:
====================

Follow up:
# Follow up with Dr. ___ 
# Schedule an appointment with your PCP within the next couple 
weeks

Incidental findings requiring follow up:

# Incidental thyroid nodules, renal cysts should be assessed as 
outpatient.
# Mitral regurgitation noted on TTE. Should be followed up in 
cardiology as an outpatient. Patient also noted to have moderate 
to severe pulmonary artery systolic hypertension. Can consider 
repeat TTE as outpatient. 
# ?Atrial fibrillation: No documented atrial fibrillation in 
house. Consider continuous event monitor. 
# ___ require outpatient GI follow up (per notes from ___ 
on ___ was scheduled for ___ with unknown MD)

Home safety: 

# Patient has not lived alone ever, sisters concerned that he 
needs rehab for ___ to at least be able to use stairs in their 
house and demonstrate ability to perform iADLs (had been living 
with his mother who was brought to nursing home with dementia in 
___, a few weeks after his initial MI). Clarified 
during family meeting ___.

NEW MEDICATIONS:
-HydrALAZINE 5 mg PO BID 
-Isosorbide Mononitrate (Extended Release) 15 mg PO DAILY 
-Magnesium Oxide 400 mg PO QOD 
-Metoprolol Succinate XL 100 mg PO DAILY
-Potassium Chloride 40 mEq PO DAILY

STOPPED MEDICATIONS: NONE

CHANGED MEDICATIONS:
-Furosemide 60 mg PO DAILY 

# DISCHARGE WEIGHT: 97.6 kg
# DISCHARGE CREATININE: 0.7

# Communication: 
HCP: ___: ___ (primary)  
Alternate: ___ home: ___ cell: ___ 
(secondary)  
# Code: Full, presumed  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluphenazine 5 mg PO BID 
2. LORazepam 0.5 mg PO Q8H:PRN anxiety 
3. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Severe 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Senna 17.2 mg PO DAILY:PRN constipation 
6. Milk of Magnesia 30 mL PO Q12H:PRN constipiation 
7. Sodium Chloride Nasal ___ SPRY NU BID:PRN dryness 
8. ___ 90 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
11. Atorvastatin 80 mg PO QPM 
12. Omeprazole 20 mg PO DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Furosemide 40 mg PO DAILY 
15. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  HydrALAZINE 5 mg PO BID  
2.  Isosorbide Mononitrate (Extended Release) 15 mg PO DAILY  
3.  Magnesium Oxide 400 mg PO QOD  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5.  Potassium Chloride 40 mEq PO DAILY 
Hold for K >  
6.  Furosemide 60 mg PO DAILY  
7.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 80 mg PO QPM  
10.  Bisacodyl 10 mg PO DAILY:PRN constipation  
11.  Fluphenazine DECANOATE 50 mg IM/SC EVERY 28 DAYS  
12.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Severe 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*15 Tablet Refills:*0 
13.  LORazepam 0.5 mg PO Q8H:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
14.  Milk of Magnesia 30 mL PO Q12H:PRN constipiation  
15.  Omeprazole 20 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  Senna 17.2 mg PO DAILY:PRN constipation  
18.  Sodium Chloride Nasal ___ SPRY NU BID:PRN dryness  
19.  ___ 90 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Acute hypoxic respiratory failure
Acute systolic heart failure

SECONDARY:
==========
CAD s/p PCI
Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of your ___ 
___.

WHY WERE YOU IN THE HOSPITAL?
You were hospitalized because of trouble breathing.  

WHAT HAPPENED IN THE HOSPITAL?
You initially needed a breathing tube to help you breathe. This 
was then removed. You received medications to remove extra fluid 
and your breathing improved. We think that your heart caused you 
to have this extra fluid so we gave you medications to improve 
your heart function.

WHAT HAPPENS AFTER YOU LEAVE THE HOSPITAL?
You should take all of your medications as prescribed when you 
leave the hospital. You should follow up with your doctors as 
___ below.

We wish you the best,
Your ___ ___ ___ Care ___
 
Followup Instructions:
___